US07074794B2
2-Chloropyridine-5-carbonitrile (7.01 g) was dissolved in acetonitrile (70 mL), and urea hydrogen peroxide addition compound (10 g) was added. Trifluoroacetic anhydride was added dropwise to the reaction mixture under ice-cooling and the mixture was stirred at room temperature for 18 hr. The reaction mixture was added to aqueous sodium thiosulfate solution and the mixture was extracted with chloroform. The extract was washed successively with saturated aqueous sodium hydrogencarbonate solution and brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography to give 2-chloro-5-cyanopyridine 1-oxide (0.779 g) as a white solid.

reactant | 2-Chloropyridine-5-carbonitrile | 7.01 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | urea hydrogen peroxide | OO.NC(=O)N
reactant | Trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 2-chloro-5-cyanopyridine 1-oxide | 0.779 g | ClC1=[N+](C=C(C=C1)C#N)[O-] | C6H3ClN2O
